US08022069B2
6-[(3R,4R,6R)-4-[4-((R)-2-Ethoxy-propoxymethyl)-phenyl]-6-(4-methyl-4H-[1,2,4]triazol-3-ylmethyl)-piperidin-3-yloxymethyl]-4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazine
Into a solution of 1.0 mmol of [(2R,4R,5R)-4-[4-((R)-2-ethoxy-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl) -piperidin-2-yl]-acetic acid [1-dimethylamino-meth-(E)-ylidene]- hydrazide in 2 ml of acetonitrile is condensed ca. 1 ml of gaseous methylamine, at RT. Acetic acid (2 mL) is carefully added, then the reaction system is sealed, and heated at 100° C. for 4 h. The reaction mixture is cooled to RT, poured into saturated aqueous NaHCO3, and extracted with EtOAc (3×). The combined organic extracts are dried over Na2SO4, concentrated under reduced pressure, and purified by flash chromatography (SiO2 60 F), to afford the title compound, which is identified based on its Rf value.

reactant | [(2R,4R,5R)-4-[4-((R)-2-ethoxy-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl) -piperidin-2-yl]-acetic acid [1-dimethylamino-meth-(E)-ylidene]- hydrazide | 1.0 mmol | CN(\C=N\NC(C[C@@H]1N(C[C@@H]([C@H](C1)C1=CC=C(C=C1)COC[C@@H](C)OCC)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)=O)C | C42H59N5O8S
reactant | methylamine | ca. 1 ml | CN | CH5N
reactant | Acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 6-[(3R,4R,6R)-4-[4-((R)-2-Ethoxy-propoxymethyl)-phenyl]-6-(4-methyl-4H-[1,2,4]triazol-3-ylmethyl)-piperidin-3-yloxymethyl]-4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazine | C(C)O[C@@H](COCC1=CC=C(C=C1)[C@@H]1[C@H](CN[C@H](C1)CC1=NN=CN1C)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C | C34H49N5O5
